US04143046
1-Chloro-3-phenoxyacetone
To a stirred solution of diazomethane (ca 6 g = 0.141 mmol) in ethyl ether (400 ml) was added over 2 hours at 1°-3° phenoxyacetyl chloride (11.95 g = 0.07 mole) dissolved in ethyl ether (50 ml). The mixture was stirred at the same temperature for 2 more hours and was allowed to stand overnight at room temperature. Then 5.5 N hydrochloric acid (25 ml, 0.137 moles) was added with stirring over 110 min. at 16°-20°. After the mixture was stirred for an additional 4 hours, the layers were separated and the ether layer was washed with three 80 ml portions of water and dried over anhydrous sodium sulfate. Removal of the solvent gave the crude product as a yellow oil, 13 g (100%); ir (film, cm-1) 1740, 1595, 1495, 1240; nmr (DCCl3, ppm) 7.40-6.70 (m, 5H), 4.60 (s, 2H), 4.25 (s, 2H). This product was used without purification to prepare phenoxyacetylmethyltriphenylphosphonium chloride.

reactant | diazomethane | 0.141 mmol, ca 6 g | [N+](=[N-])=C | CH2N2
reactant | phenoxyacetyl chloride | 0.07 mole, 11.95 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | 0.137 moles, 5.5 N, 25 ml | Cl | ClH
solvent | ethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-Chloro-3-phenoxyacetone | ClCC(=O)COC1=CC=CC=C1 | C9H9ClO2
